* sparx_blc_le - lumped-element equivalent (Ngspice / SPICE3)
* generated by snp2le
* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
* 
* 
.SUBCKT sparx_blc_le p1 p2 p3 p4
V1 p1 s1 0
R1 s1 0 50
Gd1_1 0 s1 p1 0 -0.01386935087
Fd1_1 0 s1 V1 -0.6934675436
Gr1_1_1 0 s1 x1_a1 0 -0.5533592945
Gr2_re_1_1 0 s1 x2_re_a1 0 521189.7075
Gr2_im_1_1 0 s1 x2_im_a1 0 331735.9924
Gr3_1_1 0 s1 x3_a1 0 0.6334395942
Gr4_re_1_1 0 s1 x4_re_a1 0 632184.8882
Gr4_im_1_1 0 s1 x4_im_a1 0 60970.20948
Gr5_re_1_1 0 s1 x5_re_a1 0 590994.5178
Gr5_im_1_1 0 s1 x5_im_a1 0 103955.8369
Gd1_2 0 s1 p2 0 0.0009249819168
Fd1_2 0 s1 V2 0.04624909584
Gr1_1_2 0 s1 x1_a2 0 0.03475923688
Gr2_re_1_2 0 s1 x2_re_a2 0 -574966.0578
Gr2_im_1_2 0 s1 x2_im_a2 0 191620.5162
Gr3_1_2 0 s1 x3_a2 0 0.6936349773
Gr4_re_1_2 0 s1 x4_re_a2 0 -626507.7376
Gr4_im_1_2 0 s1 x4_im_a2 0 9509.748961
Gr5_re_1_2 0 s1 x5_re_a2 0 654100.7076
Gr5_im_1_2 0 s1 x5_im_a2 0 21001.83975
Gd1_3 0 s1 p3 0 1.627327292e-05
Fd1_3 0 s1 V3 0.0008136636458
Gr1_1_3 0 s1 x1_a3 0 -0.1164615132
Gr2_re_1_3 0 s1 x2_re_a3 0 619620.8593
Gr2_im_1_3 0 s1 x2_im_a3 0 -373905.1746
Gr3_1_3 0 s1 x3_a3 0 0.7595228129
Gr4_re_1_3 0 s1 x4_re_a3 0 -552185.2378
Gr4_im_1_3 0 s1 x4_im_a3 0 9321.755859
Gr5_re_1_3 0 s1 x5_re_a3 0 -803644.2062
Gr5_im_1_3 0 s1 x5_im_a3 0 -49734.19048
Gd1_4 0 s1 p4 0 0.0005209106326
Fd1_4 0 s1 V4 0.02604553163
Gr1_1_4 0 s1 x1_a4 0 0.04340357567
Gr2_re_1_4 0 s1 x2_re_a4 0 -589289.7356
Gr2_im_1_4 0 s1 x2_im_a4 0 211275.9445
Gr3_1_4 0 s1 x3_a4 0 0.7048815456
Gr4_re_1_4 0 s1 x4_re_a4 0 597379.8162
Gr4_im_1_4 0 s1 x4_im_a4 0 -13541.46545
Gr5_re_1_4 0 s1 x5_re_a4 0 -684524.3719
Gr5_im_1_4 0 s1 x5_im_a4 0 -39676.46457
Cx1_a1 x1_a1 0 2.743943691e-13
Gx1_a1 0 x1_a1 p1 0 0.01106718589
Fx1_a1 0 x1_a1 V1 0.5533592945
Rp1_a1 0 x1_a1 1
Cx2_re_a1 x2_re_a1 0 1.793861495e-12
Gx2_re_a1 0 x2_re_a1 p1 0 3.337377702e-08
Fx2_re_a1 0 x2_re_a1 V1 1.668688851e-06
Rp2_re_re_a1 0 x2_re_a1 1
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 3.820404687
Cx2_im_a1 x2_im_a1 0 1.793861495e-12
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -3.820404687
Rp2_im_im_a1 0 x2_im_a1 1
Cx3_a1 x3_a1 0 1.597067589e-12
Gx3_a1 0 x3_a1 p1 0 0.01553212675
Fx3_a1 0 x3_a1 V1 0.7766063375
Rp3_a1 0 x3_a1 1
Cx4_re_a1 x4_re_a1 0 2.849000789e-12
Gx4_re_a1 0 x4_re_a1 p1 0 2.757614809e-08
Fx4_re_a1 0 x4_re_a1 V1 1.378807405e-06
Rp4_re_re_a1 0 x4_re_a1 1
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 3.228954488
Cx4_im_a1 x4_im_a1 0 2.849000789e-12
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -3.228954488
Rp4_im_im_a1 0 x4_im_a1 1
Cx5_re_a1 x5_re_a1 0 3.060259595e-12
Gx5_re_a1 0 x5_re_a1 p1 0 3.811833098e-08
Fx5_re_a1 0 x5_re_a1 V1 1.905916549e-06
Rp5_re_re_a1 0 x5_re_a1 1
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 2.911301851
Cx5_im_a1 x5_im_a1 0 3.060259595e-12
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -2.911301851
Rp5_im_im_a1 0 x5_im_a1 1
V2 p2 s2 0
R2 s2 0 50
Gd2_1 0 s2 p1 0 0.0009249819168
Fd2_1 0 s2 V1 0.04624909584
Gr1_2_1 0 s2 x1_a1 0 0.08217116511
Gr2_re_2_1 0 s2 x2_re_a1 0 -632881.192
Gr2_im_2_1 0 s2 x2_im_a1 0 210922.0519
Gr3_2_1 0 s2 x3_a1 0 0.7237037448
Gr4_re_2_1 0 s2 x4_re_a1 0 -801047.4294
Gr4_im_2_1 0 s2 x4_im_a1 0 12159.0836
Gr5_re_2_1 0 s2 x5_re_a1 0 535668.7583
Gr5_im_2_1 0 s2 x5_im_a1 0 17199.23139
Gd2_2 0 s2 p2 0 0.005343789189
Fd2_2 0 s2 V2 0.2671894595
Gr1_2_2 0 s2 x1_a2 0 -1.308146612
Gr2_re_2_2 0 s2 x2_re_a2 0 495402.39
Gr2_im_2_2 0 s2 x2_im_a2 0 -14936.88509
Gr3_2_2 0 s2 x3_a2 0 0.7491289398
Gr4_re_2_2 0 s2 x4_re_a2 0 720935.5173
Gr4_im_2_2 0 s2 x4_im_a2 0 -110749.8331
Gr5_re_2_2 0 s2 x5_re_a2 0 591068.8727
Gr5_im_2_2 0 s2 x5_im_a2 0 -64667.66906
Gd2_3 0 s2 p3 0 -0.0002495782719
Fd2_3 0 s2 V3 -0.01247891359
Gr1_2_3 0 s2 x1_a3 0 0.08428157046
Gr2_re_2_3 0 s2 x2_re_a3 0 -587986.3268
Gr2_im_2_3 0 s2 x2_im_a3 0 434984.5146
Gr3_2_3 0 s2 x3_a3 0 0.7940741124
Gr4_re_2_3 0 s2 x4_re_a3 0 685134.8107
Gr4_im_2_3 0 s2 x4_im_a3 0 -97669.89735
Gr5_re_2_3 0 s2 x5_re_a3 0 -709546.0501
Gr5_im_2_3 0 s2 x5_im_a3 0 46193.75215
Gd2_4 0 s2 p4 0 0.0008941028373
Fd2_4 0 s2 V4 0.04470514187
Gr1_2_4 0 s2 x1_a4 0 -0.1692958202
Gr2_re_2_4 0 s2 x2_re_a4 0 509858.8014
Gr2_im_2_4 0 s2 x2_im_a4 0 -527931.0188
Gr3_2_4 0 s2 x3_a4 0 0.8102718766
Gr4_re_2_4 0 s2 x4_re_a4 0 -690385.7093
Gr4_im_2_4 0 s2 x4_im_a4 0 94091.63276
Gr5_re_2_4 0 s2 x5_re_a4 0 -640822.3486
Gr5_im_2_4 0 s2 x5_im_a4 0 62815.76843
Cx1_a2 x1_a2 0 2.743943691e-13
Gx1_a2 0 x1_a2 p2 0 0.02616293223
Fx1_a2 0 x1_a2 V2 1.308146612
Rp1_a2 0 x1_a2 1
Cx2_re_a2 x2_re_a2 0 1.793861495e-12
Gx2_re_a2 0 x2_re_a2 p2 0 3.673544811e-08
Fx2_re_a2 0 x2_re_a2 V2 1.836772405e-06
Rp2_re_re_a2 0 x2_re_a2 1
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 3.820404687
Cx2_im_a2 x2_im_a2 0 1.793861495e-12
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -3.820404687
Rp2_im_im_a2 0 x2_im_a2 1
Cx3_a2 x3_a2 0 1.597067589e-12
Gx3_a2 0 x3_a2 p2 0 0.01620543753
Fx3_a2 0 x3_a2 V2 0.8102718766
Rp3_a2 0 x3_a2 1
Cx4_re_a2 x4_re_a2 0 2.849000789e-12
Gx4_re_a2 0 x4_re_a2 p2 0 3.525862686e-08
Fx4_re_a2 0 x4_re_a2 V2 1.762931343e-06
Rp4_re_re_a2 0 x4_re_a2 1
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 3.228954488
Cx4_im_a2 x4_im_a2 0 2.849000789e-12
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -3.228954488
Rp4_im_im_a2 0 x4_im_a2 1
Cx5_re_a2 x5_re_a2 0 3.060259595e-12
Gx5_re_a2 0 x5_re_a2 p2 0 3.121659829e-08
Fx5_re_a2 0 x5_re_a2 V2 1.560829914e-06
Rp5_re_re_a2 0 x5_re_a2 1
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 2.911301851
Cx5_im_a2 x5_im_a2 0 3.060259595e-12
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -2.911301851
Rp5_im_im_a2 0 x5_im_a2 1
V3 p3 s3 0
R3 s3 0 50
Gd3_1 0 s3 p1 0 1.627327292e-05
Fd3_1 0 s3 V1 0.0008136636459
Gr1_3_1 0 s3 x1_a1 0 -0.2765698449
Gr2_re_3_1 0 s3 x2_re_a1 0 640051.7943
Gr2_im_3_1 0 s3 x2_im_a1 0 -386234.0564
Gr3_3_1 0 s3 x3_a1 0 0.7766063375
Gr4_re_3_1 0 s3 x4_re_a1 0 -668843.6147
Gr4_im_3_1 0 s3 x4_im_a1 0 11291.13286
Gr5_re_3_1 0 s3 x5_re_a1 0 -632480.0266
Gr5_im_3_1 0 s3 x5_im_a1 0 -39141.55278
Gd3_2 0 s3 p2 0 -0.0002495782719
Fd3_2 0 s3 V2 -0.0124789136
Gr1_3_2 0 s3 x1_a2 0 0.08466536896
Gr2_re_3_2 0 s3 x2_re_a2 0 -551793.1882
Gr2_im_3_2 0 s3 x2_im_a2 0 408209.3089
Gr3_3_2 0 s3 x3_a2 0 0.7782001501
Gr4_re_3_2 0 s3 x4_re_a2 0 649058.7892
Gr4_im_3_2 0 s3 x4_im_a2 0 -92527.05355
Gr5_re_3_2 0 s3 x5_re_a2 0 -681886.1744
Gr5_im_3_2 0 s3 x5_im_a2 0 44393.00442
Gd3_3 0 s3 p3 0 0.00556212462
Fd3_3 0 s3 V3 0.278106231
Gr1_3_3 0 s3 x1_a3 0 -1.314103605
Gr2_re_3_3 0 s3 x2_re_a3 0 532500.3244
Gr2_im_3_3 0 s3 x2_im_a3 0 -54659.44034
Gr3_3_3 0 s3 x3_a3 0 0.7808946838
Gr4_re_3_3 0 s3 x4_re_a3 0 547283.1133
Gr4_im_3_3 0 s3 x4_im_a3 0 -104587.4251
Gr5_re_3_3 0 s3 x5_re_a3 0 818854.3027
Gr5_im_3_3 0 s3 x5_im_a3 0 -22914.40263
Gd3_4 0 s3 p4 0 -1.688521702e-05
Fd3_4 0 s3 V4 -0.0008442608511
Gr1_3_4 0 s3 x1_a4 0 0.09002813056
Gr2_re_3_4 0 s3 x2_re_a4 0 -539729.454
Gr2_im_3_4 0 s3 x2_im_a4 0 394156.8335
Gr3_3_4 0 s3 x3_a4 0 0.7712747399
Gr4_re_3_4 0 s3 x4_re_a4 0 -599957.3284
Gr4_im_3_4 0 s3 x4_im_a4 0 93123.63077
Gr5_re_3_4 0 s3 x5_re_a4 0 716068.9282
Gr5_im_3_4 0 s3 x5_im_a4 0 -34542.51831
Cx1_a3 x1_a3 0 2.743943691e-13
Gx1_a3 0 x1_a3 p3 0 0.02628207209
Fx1_a3 0 x1_a3 V3 1.314103605
Rp1_a3 0 x1_a3 1
Cx2_re_a3 x2_re_a3 0 1.793861495e-12
Gx2_re_a3 0 x2_re_a3 p3 0 3.447422007e-08
Fx2_re_a3 0 x2_re_a3 V3 1.723711004e-06
Rp2_re_re_a3 0 x2_re_a3 1
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 3.820404687
Cx2_im_a3 x2_im_a3 0 1.793861495e-12
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -3.820404687
Rp2_im_im_a3 0 x2_im_a3 1
Cx3_a3 x3_a3 0 1.597067589e-12
Gx3_a3 0 x3_a3 p3 0 0.01588148225
Fx3_a3 0 x3_a3 V3 0.7940741124
Rp3_a3 0 x3_a3 1
Cx4_re_a3 x4_re_a3 0 2.849000789e-12
Gx4_re_a3 0 x4_re_a3 p3 0 3.34020711e-08
Fx4_re_a3 0 x4_re_a3 V3 1.670103555e-06
Rp4_re_re_a3 0 x4_re_a3 1
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 3.228954488
Cx4_im_a3 x4_im_a3 0 2.849000789e-12
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -3.228954488
Rp4_im_im_a3 0 x4_im_a3 1
Cx5_re_a3 x5_re_a3 0 3.060259595e-12
Gx5_re_a3 0 x5_re_a3 p3 0 2.999969739e-08
Fx5_re_a3 0 x5_re_a3 V3 1.499984869e-06
Rp5_re_re_a3 0 x5_re_a3 1
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 2.911301851
Cx5_im_a3 x5_im_a3 0 3.060259595e-12
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -2.911301851
Rp5_im_im_a3 0 x5_im_a3 1
V4 p4 s4 0
R4 s4 0 50
Gd4_1 0 s4 p1 0 0.0005209106326
Fd4_1 0 s4 V1 0.02604553163
Gr1_4_1 0 s4 x1_a1 0 0.1030234638
Gr2_re_4_1 0 s4 x2_re_a1 0 -653989.9604
Gr2_im_4_1 0 s4 x2_im_a1 0 234472.6851
Gr3_4_1 0 s4 x3_a1 0 0.7354378469
Gr4_re_4_1 0 s4 x4_re_a1 0 766787.2113
Gr4_im_4_1 0 s4 x4_im_a1 0 -17381.60924
Gr5_re_4_1 0 s4 x5_re_a1 0 -566177.7801
Gr5_im_4_1 0 s4 x5_im_a1 0 -32816.84854
Gd4_2 0 s4 p2 0 0.0008941028373
Fd4_2 0 s4 V2 0.04470514187
Gr1_4_2 0 s4 x1_a2 0 -0.1699838504
Gr2_re_4_2 0 s4 x2_re_a2 0 514058.0254
Gr2_im_4_2 0 s4 x2_im_a2 0 -532279.0865
Gr3_4_2 0 s4 x3_a2 0 0.8102718766
Gr4_re_4_2 0 s4 x4_re_a2 0 -693081.5166
Gr4_im_4_2 0 s4 x4_im_a2 0 94459.0403
Gr5_re_4_2 0 s4 x5_re_a2 0 -647216.9108
Gr5_im_4_2 0 s4 x5_im_a2 0 63442.58699
Gd4_3 0 s4 p3 0 -1.688521702e-05
Fd4_3 0 s4 V3 -0.0008442608511
Gr1_4_3 0 s4 x1_a3 0 0.08998424412
Gr2_re_4_3 0 s4 x2_re_a3 0 -579868.1217
Gr2_im_4_3 0 s4 x2_im_a3 0 423469.5383
Gr3_4_3 0 s4 x3_a3 0 0.7870074356
Gr4_re_4_3 0 s4 x4_re_a3 0 -635777.1061
Gr4_im_4_3 0 s4 x4_im_a3 0 98683.47244
Gr5_re_4_3 0 s4 x5_re_a3 0 752550.6545
Gr5_im_4_3 0 s4 x5_im_a3 0 -36302.36384
Gd4_4 0 s4 p4 0 0.005500274713
Fd4_4 0 s4 V4 0.2750137357
Gr1_4_4 0 s4 x1_a4 0 -1.313463012
Gr2_re_4_4 0 s4 x2_re_a4 0 501238.6668
Gr2_im_4_4 0 s4 x2_im_a4 0 -33802.57415
Gr3_4_4 0 s4 x3_a4 0 0.7552608883
Gr4_re_4_4 0 s4 x4_re_a4 0 635042.4419
Gr4_im_4_4 0 s4 x4_im_a4 0 -116555.4961
Gr5_re_4_4 0 s4 x5_re_a4 0 659149.2347
Gr5_im_4_4 0 s4 x5_im_a4 0 -40890.18503
Cx1_a4 x1_a4 0 2.743943691e-13
Gx1_a4 0 x1_a4 p4 0 0.02626926024
Fx1_a4 0 x1_a4 V4 1.313463012
Rp1_a4 0 x1_a4 1
Cx2_re_a4 x2_re_a4 0 1.793861495e-12
Gx2_re_a4 0 x2_re_a4 p4 0 3.70380032e-08
Fx2_re_a4 0 x2_re_a4 V4 1.85190016e-06
Rp2_re_re_a4 0 x2_re_a4 1
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 3.820404687
Cx2_im_a4 x2_im_a4 0 1.793861495e-12
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -3.820404687
Rp2_im_im_a4 0 x2_im_a4 1
Cx3_a4 x3_a4 0 1.597067589e-12
Gx3_a4 0 x3_a4 p4 0 0.01620543753
Fx3_a4 0 x3_a4 V4 0.8102718766
Rp3_a4 0 x3_a4 1
Cx4_re_a4 x4_re_a4 0 2.849000789e-12
Gx4_re_a4 0 x4_re_a4 p4 0 3.539630419e-08
Fx4_re_a4 0 x4_re_a4 V4 1.76981521e-06
Rp4_re_re_a4 0 x4_re_a4 1
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 3.228954488
Cx4_im_a4 x4_im_a4 0 2.849000789e-12
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -3.228954488
Rp4_im_im_a4 0 x4_im_a4 1
Cx5_re_a4 x5_re_a4 0 3.060259595e-12
Gx5_re_a4 0 x5_re_a4 p4 0 3.152809879e-08
Fx5_re_a4 0 x5_re_a4 V4 1.576404939e-06
Rp5_re_re_a4 0 x5_re_a4 1
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 2.911301851
Cx5_im_a4 x5_im_a4 0 3.060259595e-12
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -2.911301851
Rp5_im_im_a4 0 x5_im_a4 1
.ENDS sparx_blc_le
